US07776888B2
0.19 g (1 mmol) of 3-chloro-bicyclo[3.2.2]non-6-ene-2,4-dione is treated in the presence of 4 ml of acetic acid with 0.27 g (4 mmol) of zinc and the mixture is heated for 3 hours at a temperature of 95° C. The cooled reaction mixture is then extracted with ethyl acetate against water and then washed again with saturated sodium chloride solution. 0.14 g of amorphous bicyclo[3.2.2]non-6-ene-2,4-dione is obtained as tautomeric form Da.

reactant | 3-chloro-bicyclo[3.2.2]non-6-ene-2,4-dione | 1 mmol, 0.19 g | ClC1C(C2C=CC(C1=O)CC2)=O | C9H9ClO2
catalyst | zinc | 4 mmol, 0.27 g | [Zn] | Zn
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | bicyclo[3.2.2]non-6-ene-2,4-dione | 0.14 g | C12C(CC(C(C=C1)CC2)=O)=O | C9H10O2
